US08008298B2
Diethylaluminum chloride (1.0 M in CH2Cl2, 23.4 mL, 23.4 mmol) was added to a 0-5° C. mixture of 2-bromo-5H-pyrrolo[2,3-b]pyrazine (1.55 g, 7.80 mmol) and 30 mL of dichloromethane in a sealed tube, and the mixture was stirred at 0-5° C. for 20 min. The solution of crude 2,2-dimethyl-4-pentenoyl chloride prepared in the previous step was added dropwise. The resulting mixture was stirred at 60° C. for 64 h, then cooled to 0-5° C. A sat. aq. NaHCO3 solution (50 mL) was carefully added, and the mixture was extracted with three 100 mL portions of ethyl acetate. The combined organic layers were dried over MgSO4, filtered and concentrated to a residue. Column chromatography (0→50% EtOAc/hexanes) afforded 1.033 g (43%) of impure 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-pent-4-en-1-one as a brown solid, which was used without further purification. The major impurity is s.m. (typically 15-30% of the mixture).

reactant | Diethylaluminum chloride | 23.4 mmol, 1.0 M, 23.4 mL | [Cl-].C(C)[Al+]CC
reactant | 2-bromo-5H-pyrrolo[2,3-b]pyrazine | 7.80 mmol, 1.55 g | BrC=1N=C2C(=NC1)NC=C2 | C6H4BrN3
reactant | 2,2-dimethyl-4-pentenoyl chloride | CC(C(=O)Cl)(CC=C)C | C7H11ClO
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-pent-4-en-1-one | 1.033 g, 43% | BrC=1N=C2C(=NC1)NC=C2C(C(CC=C)(C)C)=O | C13H14BrN3O
